US06716851B2
6-Morpholino-4-(3-methoxyanilino)-2-phenyl-pyrimidine
A mixture of 4-(6-chloro-2-phenyl-4-pyrimidyl)morpholine (50 mg, 0.181 mmol), m-anisidine (20 μl, 0.181 mmol) and aqueous 2N HCl (150 μl) in water:ethanol (1:1, 10 ml) was refluxed for 5 days. The mixture was cooled to room temperature and basified with aqueous 2N NaOH to pH 10-12. The mixture was extracted with ethyl acetate (50 ml), which was washed with water (2×25 ml), aqueous saturated NaCl, and dried over anhydrous sodium sulfate. The ethyl acetate solution was concentrated in vacuo and isolated as a yellow solid (6 mg, 9%). 1H NMR (CDCl3): 8.40-8.37 (m, 2H), 7.46-7.43 (m, 3H), 7.31-7.25 (m, 2H), 7.00 (t, J=2.3 Hz, 1H), 6.91 (dd, J=1.7, 8.0 Hz, 1H), 6.70-6.67 (m, 2H), 3.83 (s, 3H), 3.81-3.63 (m, 8H).

reactant | 4-(6-chloro-2-phenyl-4-pyrimidyl)morpholine | 0.181 mmol, 50 mg | ClC1=CC(=NC(=N1)C1=CC=CC=C1)N1CCOCC1 | C14H14ClN3O
reactant | m-anisidine | 0.181 mmol, 20 μl | COC1=CC(=CC=C1)N | C7H9NO
reactant | HCl | 2N, 150 μl | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water ethanol | 10 ml | O.C(C)O
product | 6-Morpholino-4-(3-methoxyanilino)-2-phenyl-pyrimidine | 6 mg, 9% | O1CCN(CC1)C1=CC(=NC(=N1)C1=CC=CC=C1)NC1=CC(=CC=C1)OC | C21H22N4O2
